US04039543
A mixture of 15.7 g. of 4-chloro-3,5-bis(dimethylamino)-α-[(methylsulfonyl)methyl]benzyl alcohol, 2.8 g. of sodium methylate and 7.1 g. of β-anilinopropionitrile in 31 ml. of dimethylsulfoxide was stirred with the exclusion of moisture for 5 hours at 50° C. The mixture was poured into 200 ml. of water, the precipitated oil extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated in vacuo. By purification of the residue over aluminum oxide with benzene and recrystallization from ethyl actate/petroleum ether, there was obtained α-(anilinomethylene)-4-chloro-3,5-bis(dimethylamino)hydrocinnamonitrile, having a melting point of 168° C.

reactant | 4-chloro-3,5-bis(dimethylamino)-α-[(methylsulfonyl)methyl]benzyl alcohol | ClC1=C(C=C(C(CS(=O)(=O)C)O)C=C1N(C)C)N(C)C | C13H21ClN2O3S
reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | α-(anilinomethylene)-4-chloro-3,5-bis(dimethylamino)hydrocinnamonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C(=C1)N(C)C)Cl)N(C)C | C20H23ClN4
